US05606051
(3S, 4R)-4-[(1,5-diethylpyrazol-3-yl)carbonylmethyl]-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one
3-Acetyl-1,5-diethylpyrazole (1.65 g) in dry tetrahydrofuran (THF) (50 ml) under an argon atmosphere was cooled in an acetone/solid carbon dioxide bath and then treated with a 1M solution of lithium bis(trimethylsilyl)amide (19.8 ml). The mixture was stirred for 45 minutes and then (3R,4R)-4-acetoxy-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidinone (2.84 g) in dry THF (10 ml), added by syringe over ca. 1 minute. The mixture was stirred in the cold for 5 h. Saturated aqueous ammonium chloride was then added, followed by ethyl acetate. The layers were separated and the aqueous layer was re-extracted with ethyl acetate. The combined ethyl acetate layers were washed with saturated brine, dried and evaporated. Chromatography on silica gel, eluting with ethyl acetate/hexane mixtures gave the title compound (1.82 g); νmax (CH2Cl2) 3412, 2957, 2885, 2857, 1761, 1677, 1473, and 1376 cm-1 ; δ(CDCl3) 0.078 (6H, s), 0.88 (9H, s), 1.21 (3H,d. J 6.3 Hz), 1.29 (3H, t, J 7.6 Hz), 1.45 (3H, t, J 7.3 Hz), 2.63 (2H,q, J 7.3 Hz), 2.90 (1H, dd, J 1.6 & 4.9 Hz), 3.15 (1H, dd, J 10.0 & 17.0 Hz), 3.50 (1H, dd, J 3.6 & 17.0 Hz), 4.06-4.25 (4H, m), 6.09 (1H, s), 6.56 (1H, s). (Found m/z 393.2445. C20H35N3O3Si requires m/z 393.2448).

reactant | 3-Acetyl-1,5-diethylpyrazole | 1.65 g | C(C)(=O)C1=NN(C(=C1)CC)CC | C9H14N2O
reactant | lithium bis(trimethylsilyl)amide | 19.8 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (3R,4R)-4-acetoxy-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidinone | 2.84 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S, 4R)-4-[(1,5-diethylpyrazol-3-yl)carbonylmethyl]-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one | 1.82 g | C(C)N1N=C(C=C1CC)C(=O)C[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C20H35N3O3Si
